US07728031B2
(3aR,6aR)-Hexahydro-pyrrolo[3,4-b]pyrrole-1,5-dicarboxylic acid 5-benzyl ester 1-tert-butyl ester
(3aR,6aR)-Hexahydro-pyrrolo[3,4-b]pyrrole-1-carboxylic acid tert-butyl ester (3.0 g, 12.5 mmole) and N-(benzyloxycarbonyloxy)-succinimide (3.42 g, 13.7 mmole) were mixed in 15 ml of dichloromethane. The mixture was stirred at room temperature overnight and then concentrated under vacuum to provide the crude product The residue was purified by flash chromatography (20% ethyl acetate in hexane) to provide the title compound. 1H NMR (CDCl3) δ ppm 7.29-7.43 (m, 5H) 5.13 (s, 2H) 4.15-4.33 (m, 1H) 3.39-3.74 (m, 5H) 3.20-3.37 (m, 1H) 2.84-2.96 (m, 1H) 1.92-2.03 (m, 1H) 1.66-1.82 (m, 1H) 1.46 (s, 9H). MS: (M+H)+=347.

reactant | (3aR,6aR)-Hexahydro-pyrrolo[3,4-b]pyrrole-1-carboxylic acid tert-butyl ester | 12.5 mmole, 3.0 g | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](CC1)CNC2 | C11H20N2O2
reactant | N-(benzyloxycarbonyloxy)-succinimide | 13.7 mmole, 3.42 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (3aR,6aR)-Hexahydro-pyrrolo[3,4-b]pyrrole-1,5-dicarboxylic acid 5-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](CC1)CN(C2)C(=O)OCC2=CC=CC=C2 | C19H26N2O4
